US07517910B2
[4-({3-tert-butyl-5-[(6-methylpyridin-2-yl)methoxy]-1H-pyrazol-1-yl}methyl)phenyl]methanol
To a solution (20 mL) of methyl 4-({3-tert-butyl-5-[(6-methylpyridin-2-yl)methoxy]-1H-pyrazol-1-yl}methyl)benzoate (2.14 g, 5.44 mmol) in tetrahydrofuran was added lithium aluminum hydride (0.26 g, 5.5 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Ethanol (10 mL) and saturated aqueous ammonium chloride solution (1.0 mL) were added to the reaction mixture. The precipitated insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography (ethyl acetate:hexane=3:1) to give the title compound (1.86 g, yield 94%) as a yellow oil. 1H NMR (CDCl3) δ: 1.26 (9H, s), 2.24 (1H, br s), 2.53 (3H, s), 4.64 (2H, br s), 5.09 (2H, s), 5.17 (2H, s), 5.43 (1H, s), 6.97-7.08 (2H, m), 7.10-7.16 (2H, m), 7.23-7.30 (2H, m), 7.51 (1H, t, J=7.8 Hz).

reactant | methyl 4-({3-tert-butyl-5-[(6-methylpyridin-2-yl)methoxy]-1H-pyrazol-1-yl}methyl)benzoate | 5.44 mmol, 20 mL, 2.14 g | C(C)(C)(C)C1=NN(C(=C1)OCC1=NC(=CC=C1)C)CC1=CC=C(C(=O)OC)C=C1 | C23H27N3O3
reactant | lithium aluminum hydride | 5.5 mmol, 0.26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethanol | 10 mL | C(C)O | C2H6O
reactant | ammonium chloride | 1.0 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-({3-tert-butyl-5-[(6-methylpyridin-2-yl)methoxy]-1H-pyrazol-1-yl}methyl)phenyl]methanol | 1.86 g, yield 94% | C(C)(C)(C)C1=NN(C(=C1)OCC1=NC(=CC=C1)C)CC1=CC=C(C=C1)CO | C22H27N3O2
